* D:\Theremin\SIMULAÇÕES\OSCILADOR DE PITCH.asc
R1 N003 N004 10k
R3 0 VP 33k
C1 VP 0 100n
C2 N003 0 100n
Q1 VS VP N005 0 BC547B
L1 N002 VS 1m
C3 N002 VS 60p
C4 N002 VS 60p
C5 N002 VS 200p
C6 N002 0 33n
C7 VS N005 680p
R5 N005 0 1k
C8 N005 0 100n
R4 N002 VP 150k
V1 N001 0 12
V2 N003 0 12
R6 N002 N001 1k
R7 VS 0 330k
R2 VP N004 330K
.model NPN NPN
.model PNP PNP
.lib C:\Users\muril\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.bjt
.MODEL BC547B  NPN (BF=530 NE=1.3 ISE=9.72F IKF=80M IS=20F VAF=50V
+      BR=10 NC=2 ISC=47P IKR=12M VAR=10
+      RB=280 RE=1 RC=40 TR=.3U
+      CJE=12P VJE=.48 MJE=0.5 CJC=6P VJC=.7 MJC=.33 TF=.5N)
.tran 1m
.backanno
.end
